US09428528B2
Step 6 Preparation of (4S,5R)-tert-butyl 5-(4-(3-(aminomethyl)isoxazol-5-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate
To a dioxane (10 ml) solution of (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-((methylsulfonyloxy)methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate (1.0 g, 2.1 mmol) is added 30% aqueous ammonium hydroxide solution (5 ml). The mixture is stirred at 35° C. for 12 hours. The product is partitioned between water (50 ml) and methylene chloride (25 ml). The organic phase is dried (sodium sulfate) and concentrated to give the title compound (685 mg): m/z (CI) 406 ([M+H]+.

reactant | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-((methylsulfonyloxy)methyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate | 2.1 mmol, 1.0 g | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)COS(=O)(=O)C)(C)C)C(=O)OC(C)(C)C | C22H29FN2O7S
reactant | ammonium hydroxide | 5 ml | [OH-].[NH4+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (4S,5R)-tert-butyl 5-(4-(3-(aminomethyl)isoxazol-5-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate | 685 mg | NCC1=NOC(=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CF | C21H28FN3O4
